US04319916
3-Isobutyryl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone
A 0.6 g. portion of impure 5-methyl-1-(3-trifluoromethylphenyl)-2,4-hexanedione was reacted overnight at reflux temperature with N,N-dimethylformamide dimethyl acetal as described in the examples above to obtain 0.8 g. of a dark oil. The oil was dissolved in methanol and reacted with 2 g. of methylamine hydrochloride under reflux for 4 hours. The reaction mixture was evaporated under vacuum to obtain a yellow solid, which was purified as described in Example 10 to obtain 0.09 g. of the desired product, m.p. 104°-105°, showing the following peaks in nmr analysis in DMSOd6 : δ7.6-8.3 (m, 6H, aromatic): 3.7-4.2 (m, 1H, COCH); 3.8 (s, 3H, N--CH3); 1.0-1.2 (d, 6H, CH(CH3)2).

reactant | 5-methyl-1-(3-trifluoromethylphenyl)-2,4-hexanedione | CC(C(CC(CC1=CC(=CC=C1)C(F)(F)F)=O)=O)C | C14H15F3O2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | methylamine hydrochloride | Cl.CN
solvent | methanol | CO | CH4O
product | 3-Isobutyryl-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | C(C(C)C)(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C17H16F3NO2
